US05183820
6-Fluoro-2,3,4,5-tetrahydro-5-methyl-1H-pyrido[4,3-b]indol-1-one
Sodium hydride (60% dispersion in oil; 196 mg) was added to a stirred suspension of 6-fluoro-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one (500 mg) in dry DMF (10 ml) under nitrogen. After 30 min the solution was cooled (0°), and methyl iodide (0.153 ml) was added. After stirring for 15 min the suspension was poured into water 950 ml) and extracted with dichloromethane (3×25 ml). The combined, dried organic extracts were evaporated to give a solid (ca. 530 mg) which was purified by FCC eluting with System A (250:10:1) to give the title compound (130 mg), m.p. 242°.

reactant | Sodium hydride | 196 mg | [H-].[Na+]
reactant | 6-fluoro-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one | 500 mg | FC1=CC=CC=2C3=C(NC12)CCNC3=O | C11H9FN2O
reactant | methyl iodide | 0.153 ml | CI | CH3I
reactant | water | 950 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-Fluoro-2,3,4,5-tetrahydro-5-methyl-1H-pyrido[4,3-b]indol-1-one | ca. 530 mg | FC1=CC=CC=2C3=C(N(C12)C)CCNC3=O | C12H11FN2O
